US07759527B2
Synthesis of 4-vinylphenol (by multimode microwave irradiation method under solvent less conditions)
A mixture of 4-acetyloxycinnamic acid (0.0083 mol), KOH (10%, 3 ml), ammonium acetate (1 g) and basic alumina (5 g) were taken in a 250 ml Erlenmeyer flask fitted with loose funnel at the top. The flask was placed inside the microwave oven and irradiated for 10 minutes. After completion of reaction the solid mixture washed with ethyl acetate and ethyl acetate layer was washed with dil HCl, water, brine and dried over anhydrous sodium sulphate and purified on silica gel column chromatography using mixture of hexane and ethyl acetate (9:1 to 6:4) provided viscous liquid. 49% yield; 1H NMR (CDCl3) δ 7.31 (2H, d, J=8.48 Hz), 6.81 (2H, d, J=8.48 Hz), 6.67 (1H, dd, J=17.81 and 11.30 Hz), 5.51 (1H, s), 5.2 (1H, d, J=17.81), 5.14 (1H, d, J=11.30 Hz); 13C NMR (CDCl3) δ 155.5, 136.5, 130.9, 128.0, 115.8 and 112.0.

reactant | 4-acetyloxycinnamic acid | 0.0083 mol | C(C)(=O)OC1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
reactant | KOH | 3 ml | [OH-].[K+]
reactant | ammonium acetate | 1 g | C(C)(=O)[O-].[NH4+]
product | 4-vinylphenol | 49% yield | C(=C)C1=CC=C(C=C1)O | C8H8O
